US07781426B2
N-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl]-N-isobutylmethanesulfonamide
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(isobutylamino)-5-(trifluoromethoxy)benzyl]-4-methyl-1,3-oxazolidin-2-one (9.2 mg, 0.0165 mmol) in pyridine (300 μL) was added methanesulfonyl chloride (100 μL, 1.29 mmol) and excess 4-dimethylaminopyridine. The reaction was stirred at 65° C. for 4 hours and then diluted with EtOAc (15 mL), and washed with 1 N HCl (2×10 mL) and brine (10 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by PTLC (60% EtOAc/hexanes) N-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl]-N-isobutylmethanesulfonamide. Rf=0.25 (60% EtOAc/hexanes). LCMS=637.4 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.91 (s, 1H), 7.80 (s, 2H), 7.34-2.46 (m, 3H), 5.79-5.76 (m, 1H), 4.90-4.58 (m, 2H), 4.19-4.14 (m, 1H), 3.51-3.46 (m, 1H), 3.34-3.32 (m, 1H), 2.97 (m, 3H), 1.25 (m, 1H), 0.93-0.87 (m, 6H), 0.70-0.66 (m, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(isobutylamino)-5-(trifluoromethoxy)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.0165 mmol, 9.2 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)NCC(C)C)C)(F)F | C24H23F9N2O3
reactant | methanesulfonyl chloride | 1.29 mmol, 100 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 300 μL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | N-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl]-N-isobutylmethanesulfonamide | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)N(S(=O)(=O)C)CC(C)C)C)(F)F | C25H25F9N2O5S
